US07229999B2
5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid
5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester (0.28 g, 0.8 mmol) was dissolved in tetrahydrofuran (4.5 mL). Water (1.5 mL) and lithium hydroxide (99 mg, 2.3 mmol) was added and the mixture was stirred for 1 h at 80° C. The mixture was cooled to room temperature; citric acid (4 mL, 10%) was added and the mixture was extracted with ethyl acetate. Organic phases were pooled dried with Na2SO4 and the solvent evaporated to give a quantitative yield of the title compound as beige solid, MS (ISP) 342.0 (M−H)−.

reactant | 5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid methyl ester | 0.8 mmol, 0.28 g | COC(C1=CN=C(C(=C1)C1=CC=C(C=C1)Cl)OCC=1N(C=CN1)C)=O | C18H16ClN3O3
reactant | Water | 1.5 mL | O | H2O
reactant | lithium hydroxide | 2.3 mmol, 99 mg | [OH-].[Li+]
reactant | citric acid | 4 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | 5-(4-Chloro-phenyl)-6-(1-methyl-1H-imidazol-2-ylmethoxy)-nicotinic acid | quantitative yield | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC=1N(C=CN1)C | C17H14ClN3O3
